US08372845B2
Step 1: 3-tert-Butoxycarbonylamino-propionic acid dipropylcarbamoylmethyl ester
To a stirred suspension of Boc-Beta-Ala-OH (40.0 g, 211 mmol) in DMF (200 ml) at 60° C. under N2 was added potassium carbonate (40.0 g, 289 mmol). To this mixture was added 2-chloro-N,N-dipropyl-acetamide (36.7 g, 207 mmol) in DMF (75 ml). The reaction mixture was allowed to stir at 60° C. overnight. The reaction was allowed to cool to RT and diluted with DCM (400 ml) followed by water (500 ml). The organic layer was separated and washed with brine (200 ml), dried over MgSO4 and concentrated in vacuo to yield a pale yellow oil. To the oil was added n-heptane (500 ml) (azeotrope for DMF) which was concentrated in vacuo to afford the title compound; LC-MS Rt 1.14 mins; 331.3 [M+H]+, Method 2minLC_v003.

reactant | Boc-Beta-Ala-OH | 211 mmol, 40.0 g | N(CCC(=O)O)C(=O)OC(C)(C)C | C8H15NO4
reactant | potassium carbonate | 289 mmol, 40.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-N,N-dipropyl-acetamide | 207 mmol, 36.7 g | ClCC(=O)N(CCC)CCC | C8H16ClNO
reactant | water | 500 ml | O | H2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
solvent | DCM | 400 ml | C(Cl)Cl | CH2Cl2
solvent | n-heptane | 500 ml | CCCCCCC | C7H16
product | 3-tert-Butoxycarbonylamino-propionic acid dipropylcarbamoylmethyl ester | C(CC)N(C(=O)COC(CCNC(=O)OC(C)(C)C)=O)CCC | C16H30N2O5
